US07173045B2
Chloroformic acid phenyl ester (3.29 g, 21.0 mmol.) and pyridine (1.74 g, 22.0 mmol.) were added to a solution of tryptamine (2-(1H-indol-3-yl)ethylamine, 3.2 g, 20.0 mmol.) in abs. DCM (50 ml), and stirring was carried out for 24 h at RT. For working up, the mixture was washed with water (2×20 ml), 1M HCl (2×20 ml) and 1M NaOH (2×20 ml), and the organic phase was dried, filtered and concentrated. [2-(1H-Indol-3-yl)ethyl]carbamic acid phenyl ester was obtained in a yield of 5.58 g (white solid, m.p. 44–46° C.).

reactant | Chloroformic acid phenyl ester | 21.0 mmol, 3.29 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | pyridine | 22.0 mmol, 1.74 g | N1=CC=CC=C1 | C5H5N
reactant | tryptamine | 20.0 mmol, 3.2 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | [2-(1H-Indol-3-yl)ethyl]carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCCC1=CNC2=CC=CC=C12)=O | C17H16N2O2
